US07932272B2
5-Benzyloxy-thiophene-2-carbonitrile
The resulting 5-benzyloxy-thiophene-2-carbaldehyde (171 mg) was dissolved in N,N-dimethylformamide (4 mL), pyridine (82 μl, 1.02 mmol) and hydroxylamine hydrochloride (65 mg, 0.94 mmol) were added thereto, followed by stirring for 30 minutes at 60° C., then, cooled on an ice bath. 1,1′-Carbonyldiimidazole (635 mg, 3.92 mmol) was added, the solution was warmed again to 60° C. and stirred for 35 minutes, triethylamine (272 μl, 1.96 mmol) was added, and the solution was further stirred for 30 minutes. The reaction mixture was cooled to room temperature, water was added, and the solution was extracted with ethyl acetate. The organic layer was sequentially washed with an aqueous solution of oxalic acid, an aqueous solution of saturated sodium bicarbonate and brine, dried over anhydrous sodium sulfate, and then, concentrated in vacuo. The resulting residue was purified by silica gel chromatography (hexane-ethyl acetate), and the title compound (30 mg, 0.14 mmol, 14%) was obtained.

reactant | 5-benzyloxy-thiophene-2-carbaldehyde | 171 mg | C(C1=CC=CC=C1)OC1=CC=C(S1)C=O | C12H10O2S
reactant | pyridine | 1.02 mmol, 82 μl | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.94 mmol, 65 mg | Cl.NO
reactant | 1,1′-Carbonyldiimidazole | 3.92 mmol, 635 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 1.96 mmol, 272 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Benzyloxy-thiophene-2-carbonitrile | 0.14 mmol, 30 mg, 14% | C(C1=CC=CC=C1)OC1=CC=C(S1)C#N | C12H9NOS
